US04226872
The acid chloride of 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid is reacted with cyano[6-(3-fluorophenoxy)-2-pyridyl]methanol in ether as in Example 2 to give cyano[6-(3-fluorophenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate.

reactant | 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)O)C(C)C | C12H13ClF3NO2
reactant | cyano[6-(3-fluorophenoxy)-2-pyridyl]methanol | C(#N)C(O)C1=NC(=CC=C1)OC1=CC(=CC=C1)F | C13H9FN2O2
solvent | ether | CCOCC | C4H10O
product | cyano[6-(3-fluorophenoxy)-2-pyridyl]methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OC(C1=NC(=CC=C1)OC1=CC(=CC=C1)F)C#N)C(C)C | C25H20ClF4N3O3
